US08039450B2
To a 20 mL scintillation vial {1-[4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzylcarbamoyl]-2-phenyl-ethyl}-carbamic acid tert-butyl ester (190 mg, 0.38 mmol, 1.0 eq.) in DCM (5.0 mL) was added HCl (5.0 mL, 4.0M in 1,4-dioxane) and the mixture was stirred at room temperature overnight. The mixture was concentrated under reduced pressure to give 2-amino-N-[4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzyl]-3-phenyl-propionamide as a light yellow glassy solid. LCMS (m/z) 403 (M+H); 1H NMR (DMSO-d6) δ: 8.91 (br. s., 1H), 8.32 (br. s., 3H), 7.70 (d, J=8.0 Hz, 1H), 7.23-7.33 (m, 4H), 7.19-7.23 (m, 2H), 7.11 (d, J=8.6 Hz, 2H), 6.88-6.99 (m, 4H), 4.90 (s, 2H), 4.27-4.35 (m, 1H), 4.15-4.24 (m, 1H), 3.98-4.06 (m, 1H), 3.04 (d, J=7.2 Hz, 2H).

reactant | {1-[4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzylcarbamoyl]-2-phenyl-ethyl}-carbamic acid tert-butyl ester | 0.38 mmol, 190 mg, 1.0 eq. | C(C)(C)(C)OC(NC(CC1=CC=CC=C1)C(NCC1=CC=C(C=C1)OC1=CC2=C(B(OC2)O)C=C1)=O)=O | C28H31BN2O6
reactant | HCl | 4.0M, 5.0 mL | Cl | ClH
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 2-amino-N-[4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzyl]-3-phenyl-propionamide | NC(C(=O)NCC1=CC=C(C=C1)OC1=CC2=C(B(OC2)O)C=C1)CC1=CC=CC=C1 | C23H23BN2O4
